US04180655
(a) 1-(2-chloroethyl)-3-(6-deoxy-β-D-glucopyranosyl)urea
A solution of 234 mg (0.91 mmol) of 1-(6-deoxy-β-D-glucopyranosyl)-3-methyl-3-nitrosourea in 2 ml of water was admixed with a solution of 401 mg (3.5 mmol) of 2-chloroethylamine hydrochloride and 0.5 ml (3.3 mmol) of triethylamine in 3 ml of aqueous 50% ethanol. The admixture was stirred for 2 hours at ambient temperature, and the reaction mixture was passed through a column (10×160 mm) of Amberlite IRA-400 (OH- form), which was then washed with water. The effluent was concentrated to dryness under a reduced pressure, and the crystalline residue so obtained was subjected to chromatography in a column (8×350 mm) of silica gel (8 g) using chloroformmethanol (5:2 by volume) as eluent. Such fractions of the eluate which gave a single spot at Rf 0.50 were combined together and concentrated to dryness by evaporation of the solvent under a reduced pressure. Recrystallization of the residue from acetone gave the titled compound. Yield 98 mg (37.7%). mp. 130°-132° C. [α]D24 -25.5° (c 0.5, water).

reactant | 1-(6-deoxy-β-D-glucopyranosyl)-3-methyl-3-nitrosourea | 0.91 mmol, 234 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C)NC(=O)N(N=O)C | C8H15N3O6
reactant | 2-chloroethylamine hydrochloride | 3.5 mmol, 401 mg | Cl.ClCCN
reactant | triethylamine | 3.3 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-(2-chloroethyl)-3-(6-deoxy-β-D-glucopyranosyl)urea | ClCCNC(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C | C9H17ClN2O5
